US07795255B2
(3-Bromopropyl)phosphonic acid diethyl ester (300 mg, 1.15 mmol) and sodium azide (150 mg, 2.3 mmol) were dissolved in acetone (10 ml) and the solution was refluxed for 12 hours under nitrogen atmosphere, then cooled to room temperature, filtered, and dried under vacuum to afford (3-azidopropyl)phosphonic acid diethyl ester (250 mg, 98% yield) as a colorless liquid.

reactant | (3-Bromopropyl)phosphonic acid diethyl ester | 1.15 mmol, 300 mg | C(C)OP(OCC)(=O)CCCBr | C7H16BrO3P
reactant | sodium azide | 2.3 mmol, 150 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | (3-azidopropyl)phosphonic acid diethyl ester | 250 mg, 98% yield | C(C)OP(OCC)(=O)CCCN=[N+]=[N-] | C7H16N3O3P
